US05023334
Preparation of 2-phenoxybenzoic acid [3-methyl-1-(4-pyridinyl)butylidene]hydrazide, Compound 54
Following the general method of procedure 4 and making noncritical variations, except 12 drops of glacial acetic acid is added as a catalyst, 9.00 gm (0.055 mole) of isobutyl 4-pyridyl ketone and 12.59 gm (0.055 mole) of 2-phenoxybenzhydrazide yield 13.89 gm (67%) of the title compound having a melting point of 137.6° C.

reactant | isobutyl 4-pyridyl ketone | 0.055 mole, 9.00 gm | N1=CC=C(C=C1)C(=O)CC(C)C | C10H13NO
reactant | 2-phenoxybenzhydrazide | 0.055 mole, 12.59 gm | O(C1=CC=CC=C1)C1=C(C(=O)NN)C=CC=C1 | C13H12N2O2
catalyst | acetic acid | 12 drops | C(C)(=O)O | C2H4O2
product | 2-phenoxybenzoic acid [3-methyl-1-(4-pyridinyl)butylidene]hydrazide | CC(CC(C1=CC=NC=C1)=NNC(C1=C(C=CC=C1)OC1=CC=CC=C1)=O)C | C23H23N3O2
